US07425555B2
3-Furoic acid (2.4 g, 21.45 mmol) and HATU (8.15 g, 21.45 mmol) in DMF (25 ml) were stirred at room temperature for 15 mins. HOBT (2.9 g, 21.45 mmol), 3-iodo-4-methylaniline (5.0 g, 21.45 mmol) and DIPEA (11.2 ml, 64.35 mmol) were added and the reaction stirred at room temperature for 16 hrs. The solvent was evaporated under vacuum and the residue partitioned between ethyl acetate (100 ml) and aqueous sodium carbonate (10%, 100 ml). The aqueous layer was extracted with ethyl acetate (50 ml) and the combined organic phases washed with hydrochloric acid (2N, 75 ml), water (75 ml) and brine (75 ml). The organic phase was dried (magnesium sulphate) and absorbed onto silica. The silica was applied to a flash silica column and eluted with cyclohexane/ethyl acetate (3:1). The solvent was evaporated from the product fractions under vacuum to give N-(3-iodomethylphenyl)-3-furamide.

reactant | 3-Furoic acid | 21.45 mmol, 2.4 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | HATU | 21.45 mmol, 8.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 21.45 mmol, 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-iodo-4-methylaniline | 21.45 mmol, 5.0 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | DIPEA | 64.35 mmol, 11.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(3-iodomethylphenyl)-3-furamide | ICC=1C=C(C=CC1)NC(=O)C1=COC=C1 | C12H10INO2
